US07709483B2
(p) 6-[(4-Amino-1-piperidinyl)methyl]-7-fluoro-5,6-dihydro-3H-pyrrolo[1,2,3-de]quinoxalin-3-one
A solution of 1,1-dimethylethyl {1-[(7-fluoro-3-oxo-5,6-dihydro-3H-pyrrolo[1,2,3-de]quinoxalin-6-yl)methyl]-4-piperidinyl}carbamate (8.13 g, 20.2 mmol) in dichloromethane (150 ml) and methanol (100 ml) was cooled in iced water. Hydrogen chloride in 1,4-dioxane (4M, 160 ml) was added gradually, then the mixture was stirred for 1.5 h. The mixture was evaporated and the residue was triturated with ether and filtered off. The solid was partially dissolved in 25% methanol/dichloromethane (200 ml) and stirred with MP-carbonate (3.03 mmol/g, 27 g) for 1 h. The resin was filtered off, washed a few times with 10% methanol/dichloromethane and methanol alternately, and the filtrate was evaporated to give the product (5.96 g, 98%).

reactant | 1,1-dimethylethyl {1-[(7-fluoro-3-oxo-5,6-dihydro-3H-pyrrolo[1,2,3-de]quinoxalin-6-yl)methyl]-4-piperidinyl}carbamate | 20.2 mmol, 8.13 g | FC1=C2C=3N(C(C=NC3C=C1)=O)CC2CN2CCC(CC2)NC(OC(C)(C)C)=O | C21H27FN4O3
reactant | Hydrogen chloride | Cl | ClH
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | methanol | 100 ml | CO | CH4O
solvent | water | O | H2O
solvent | 1,4-dioxane | 4M, 160 ml | O1CCOCC1 | C4H8O2
product | 6-[(4-Amino-1-piperidinyl)methyl]-7-fluoro-5,6-dihydro-3H-pyrrolo[1,2,3-de]quinoxalin-3-one | 5.96 g, 98% | NC1CCN(CC1)CC1CN2C(C=NC=3C=CC(=C1C23)F)=O | C16H19FN4O
